US06492412B2
2-(3-Iodo-propyl)-furan
To a solution of 3-furan-2-yl-propan-1-ol (6.3 g, 50 mmol) in pyridine (40 mL) at −15° C. was added p-toluenesulfonyl chloride (11.4 g, 60 mmol) in portions and the reaction was stirred for 3 h. Water (10×0.5 mL) was added and the mixture was poured into a mixture of concentrated HCl (65 mL) and ice (200 gm). The product was extracted into Et2O and the organic solution was dried over MgSO4, filtered, and concentrated to provide a yellow oil. The oil was added to a mixture of NaI (9 g, 60 mmol) in acetone (70 mL) and the reaction was stirred for 15 h. The insolubles were removed by filtration and the filtrate was concentrated in vacuo. Purification by flash chromatography (hexanes) provided the title compound (7.2 g). 1H NMR (400 MHz, CDCl3) δ 7.30 (m, 1H), 6.28 (m, 1H), 6.04 (m, 1H), 3.19 (t, 2H), 2.75 (t, 2H), 2.14 (m, 2H).

reactant | 3-furan-2-yl-propan-1-ol | 50 mmol, 6.3 g | O1C(=CC=C1)CCCO | C7H10O2
reactant | p-toluenesulfonyl chloride | 60 mmol, 11.4 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | HCl | 65 mL | Cl | ClH
reactant | NaI | 60 mmol, 9 g | [Na+].[I-]
solvent | pyridine | 40 mL | N1=CC=CC=C1 | C5H5N
solvent | acetone | 70 mL | CC(=O)C | C3H6O
solvent | Water | 0.5 mL | O | H2O
product | 2-(3-Iodo-propyl)-furan | 7.2 g | ICCCC=1OC=CC1 | C7H9IO
